US07074800B1
Using a procedure analogous to that described for Example 9, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (0.13 g, 0.4 mmol), (prepared as described for the starting material in Example 10), was reacted with 6-hydroxy-2H-4H-1,4-benzoxazin-3-one (83 mg, 0.5 mmol), (J. Chem. Soc. C, 1971, 2696), to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(3-oxo-2H-4H-1,4-benzoxazin-6-yloxy)quinazoline (158 mg, 88%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.4 mmol, 0.13 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 6-hydroxy-2H-4H-1,4-benzoxazin-3-one | 0.5 mmol, 83 mg | OC=1C=CC2=C(NC(CO2)=O)C1 | C8H7NO3
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(3-oxo-2H-4H-1,4-benzoxazin-6-yloxy)quinazoline | 158 mg, 88% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC=1C=CC2=C(NC(CO2)=O)C1 | C24H26N4O5
